US07723538B2
A solution of 3-chloro-benzenesulfonyl chloride (2.68 g, 13.0 mmol) in toluene (10.0 ml) was warmed to 100° C. and treated with a solution of 3-amino-benzoic acid ethyl ester (2.00 g, 12.0 mmol) in toluene (10.0 ml). The mixture was stirred at 100° C. for 1 h, then cooled to 0° C. for 1 h. The precipitated solid was filtered, washing with toluene. Drying of the solid under high vacuum yielded 3-(3-chloro-benzenesulfonylamino)-benzoic acid ethyl ester (4.03 g, 98%) as an off-white solid, which was used crude in the following reaction.

reactant | 3-chloro-benzenesulfonyl chloride | 13.0 mmol, 2.68 g | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | 3-amino-benzoic acid ethyl ester | 12.0 mmol, 2.00 g | C(C)OC(C1=CC(=CC=C1)N)=O | C9H11NO2
solvent | toluene | 10.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10.0 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(3-chloro-benzenesulfonylamino)-benzoic acid ethyl ester | 4.03 g, 98% | C(C)OC(C1=CC(=CC=C1)NS(=O)(=O)C1=CC(=CC=C1)Cl)=O | C15H14ClNO4S
